US08426447B2
A vial was charged with (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (68.1 mg, 0.166 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (105 mg, 0.498 mmol), tetrakis(triphenylphosphine)palladium (19.18 mg, 0.017 mmol), THF (830 μL), and potassium carbonate (415 μL, 0.830 mmol) (as a 2.0 M aq. solution). The vial was sealed and placed in a 110° C. for 5 hours. The layers were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over sodium sulfate, filtered, and evaporated. The residue was purified by chromatography on a 25-g SNAP column, eluting with 0-60% of a 90:10:1 mixture of DCM/MeOH/NH4OH in DCM to give (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid

reactant | (S)-3-bromo-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 0.166 mmol, 68.1 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C18H12BrN5O2
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.498 mmol, 105 mg | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
reactant | potassium carbonate | 0.830 mmol, 415 μL | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.017 mmol, 19.18 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 830 μL | C1CCOC1 | C4H8O
product | (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(pyrimidin-5-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | O1CCC(=CC1)C=1C=C2C(=NC1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C=NC=NC1 | C23H19N5O3
